US07157476B2
Tert-butyl 4-(ethoxycarbonyl)-1,2,5-oxadiazol-3-ylcarbamate:
To a solution of ethyl 4-amino-1,2,5-oxadiazole-3-carboxylate (0.70 g, 4.5 mmol), and DMAP (0.07 g, 0.45 mmol) in 25 mL of THF was added di-t-butyl dicarbonate (1.1 mL, 4.9 mmol). After 24 hours stirring at room temperature, another equivalent of di-t-butyl dicarbonate was added and the reaction heated at 60° C. for 0.5 hour. The reaction mixture was concentrated and ice was added, extracted with diethyl ether (3×100 mL). The combined organic layers was washed with NaCl, dried over MgSO4, and concentrated to give a yellow oil (1.0 g, 88%). 1H NMR (CDCl3, 500 Mz) δ 7.19 (s, 1H), 4.39 (q, 2H), 1.37 (t, 3H), 1.40, (s, 9H). Mass Spec. FIA MS 258.1(M+1).

reactant | ethyl 4-amino-1,2,5-oxadiazole-3-carboxylate | 4.5 mmol, 0.70 g | NC=1C(=NON1)C(=O)OCC | C5H7N3O3
reactant | di-t-butyl dicarbonate | 4.9 mmol, 1.1 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.45 mmol, 0.07 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | Tert-butyl 4-(ethoxycarbonyl)-1,2,5-oxadiazol-3-ylcarbamate | 1.0 g, 88% | C(C)OC(=O)C=1C(=NON1)NC(OC(C)(C)C)=O | C10H15N3O5
